US04230628
Preparation of 1-[4-(15-carbomethoxypentadecylamino)benzoyl]piperidine
To a chilled solution of 35 ml. of piperidine, 2.5 ml. of triethylamine and 0.6 g. of dimethylaminopyridine in 100 ml. of diethyl ether is added (1/2 hour) a solution of 8.3 g. of 4-(15-carbomethoxypentadecylamino)benzoyl chloride hydrochloride in 50 ml. of ether. The solution is warmed to room temperature and maintained there for two hours. The solution is heated to reflux for an additional 2 hours at which time the reaction is complete. The solution is cooled, extracted twice with 100 ml. portions of water and dried over magnesium sulfate. The solvent is removed in vacuo and the solid is recrystallized in 50 ml. of diethyl ether to yield the product.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | dimethylaminopyridine | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-(15-carbomethoxypentadecylamino)benzoyl chloride hydrochloride | Cl.C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)Cl)C=C1
solvent | ether | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-[4-(15-carbomethoxypentadecylamino)benzoyl]piperidine | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)N2CCCCC2)C=C1 | C29H48N2O3
